US04271156
A solution of but-3-en-2-one (25.6 g) in anhydrous chloroform (90 cc) is added, at a maximum temperature of 5° C., to a suspension of triethylammonium 5-chloropyrid-2-yldithiocarbamate (110.0 g) in anhydrous chloroform (540 cc). The reaction is allowed to proceed for 1 hour at a maximum temperature of 5° C. A 3.7 N solution of hydrogen chloride in diethyl ether (97 cc) is added, at a maximum temperature of 0° C., and the mixture is then diluted with chloroform (500 cc). The chloroform solution is washed three times with distilled water (total 450 cc), dried over sodium sulphate and evaporated. The residue obtained (95.0 g) is dissolved in methylene chloride (300 cc), silica (0.2-0.5 mm; 60.0 g) is added and the solvent is then evaporated off. The silica impregnated with the product is introduced onto a column of diameter 7.5 cm, containing silica (0.2-0.5 mm; 900 g). Elution is carried out with a mixture of cyclohexane (6 liters) and ethyl acetate (1 liter), this eluate being discarded, and then with a mixture of cyclohexane (11.4 liters) and ethyl acetate (6.6 liters), this eluate being collected and evaporated to dryness under reduced pressure (20 mmHg) at 45° C. The product obtained (65.2 g; m.p. 116° C.) is purified by two successive recrystallisations from acetonitrile (210 cc) and then from a mixture of chloroform (250 cc) and diethyl ether (250 cc). 3-Oxobutyl 5-chloropyrid-2-yldithiocarbamate (47.5 g) (structure determined by IR spectroscopy in petroleum jelly), which melts at 120° C., is obtained.

reactant | but-3-en-2-one | 25.6 g | CC(C=C)=O | C4H6O
reactant | triethylammonium 5-chloropyrid-2-yldithiocarbamate | 110.0 g | ClC=1C=CC(=NC1)NC([S-])=S.C(C)[NH+](CC)CC
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 90 cc | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 540 cc | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | 97 cc | C(C)OCC | C4H10O
solvent | chloroform | 500 cc | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 300 cc | C(Cl)Cl | CH2Cl2
product | 3-Oxobutyl 5-chloropyrid-2-yldithiocarbamate | 47.5 g | ClC=1C=CC(=NC1)NC(SCCC(C)=O)=S | C10H11ClN2OS2
